### PR TITLE
Adapt to https://github.com/math-comp/math-comp/pull/863

### PR DESCRIPTION
**Pull request by proux01**
This should be backward compatible (CI will confirm).

### CODE REVIEW

**Comment by proux01** [comment]
@strub CI green

File: src/mpoly.v [hunk 1]
```diff
@@ -2623,7 +2623,7 @@ Qed.
 
 Lemma mderivm0m p : p^`M[0] = p.
 Proof.
-rewrite mderivm_foldr (eq_map (f2 := fun _ => [::])).
+rewrite mderivm_foldr (@eq_map _ _ _ (fun=> [::])).
```
Comment (thery) [inline src/mpoly.v:2626]: `(eq_map (_ : _ =1 fun _ => [::]))` maybe?

File: src/mpoly.v [hunk 2]
```diff
@@ -5240,7 +5240,7 @@ Qed.
 Lemma size_m2s n (m : 'X_{1..n}): size (m2s m) = mdeg m.
 Proof.
 rewrite /m2s size_flatten /shape -map_comp /=.
-rewrite (eq_map (f2 := fun i : 'I_n => m i)).
+rewrite (@eq_map _ _ _ (fun i : 'I_n => m i)).
```
Comment (thery) [inline src/mpoly.v:5243]: `(eq_map (_ : _ =1 fun i => m i)) `  maybe?

File: src/mpoly.v [hunk 3]
```diff
@@ -2623,7 +2623,7 @@ Qed.
 
 Lemma mderivm0m p : p^`M[0] = p.
 Proof.
-rewrite mderivm_foldr (eq_map (f2 := fun _ => [::])).
+rewrite mderivm_foldr (eq_map (_ : _ =1 fun=> [::])).
```
Comment (thery) [inline src/mpoly.v:2626]: bad indent

Comment (thery) [reply src/mpoly.v:2626]: the line after
